US09403832B2
Part B. Isopropyl 4-(3-(6-methoxypyridin-2-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate
To 65 mg (0.157 mmol) of isopropyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate in a microwave vial was added, 29 mg (0.157 mmol) of 2-bromo-6-methoxypyridine, 43 mg (0.313 mmol) of K2CO3, 18 mg (0.016 mmol) Pd(PPh3)4, 3 mL of DME and then 1 mL water. The resulting mixture was microwaved at 125° C. for 0.33 hr. It was diluted with EtOAc, washed with brine, and the organic layer dried over MgSO4. It was concentrated and purified on the neutral PREP HPLC to obtain 42 mg of the desired product. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.30 (d, J=6.32 Hz, 6 H) 3.60-3.74 (m, 4 H) 3.81 (br. s., 4H) 4.04 (s, 3 H) 5.00 (quin, J=6.25 Hz, 1 H) 6.39 (d, J=7.83 Hz, 1 H) 6.55 (dd, J=8.08, 0.76 Hz, 1 H) 7.62 (dd, J=8.08, 7.58 Hz, 1 H) 7.83-7.93 (m, 1 H) 8.37 (d, J=7.83 Hz, 1 H) 8.66 (s, 1 H). LRMS (ESI) m/e 397 [(M+H)+, calcd for C20H24N6O3 396].

reactant | isopropyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | 0.157 mmol, 65 mg | CC1(OB(OC1(C)C)C=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OC(C)C)C | C20H30BN5O4
reactant | 2-bromo-6-methoxypyridine | 0.157 mmol, 29 mg | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | K2CO3 | 0.313 mmol, 43 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DME | 3 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.016 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | Isopropyl 4-(3-(6-methoxypyridin-2-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | 42 mg | COC1=CC=CC(=N1)C=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OC(C)C | C20H24N6O3
